US07417169B2
Lead tetraacetate (1.369 g) was added to an ice-cooled mixture of 1-[4′-(2-acetoxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]ethan-1-one (0.672 g), boron trifluoride diethyl etherate (1.56 mL), methanol (2 mL) and methylene chloride (20 mL) with stirring, and the mixture was stirred at room temperature for 4 hrs. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to afford methyl[4′-(2-acetoxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]acetate (0.318 g).

reactant | Lead tetraacetate | 1.369 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 1-[4′-(2-acetoxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]ethan-1-one | 0.672 g | C(C)(=O)OCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(C)=O)C | C20H22O4
reactant | boron trifluoride diethyl etherate | 1.56 mL | B(F)(F)F.CCOCC
reactant | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl[4′-(2-acetoxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]acetate | 0.318 g | COC(CC1=CC=C(C=C1)C1=C(C=C(C=C1C)OCCOC(C)=O)C)=O | C21H24O5
